US05397793
Preparation of alpha-4-fluorophenyl-3-pyridylacetonitrile
In a 1 liter 3 neck round bottomed flask was charged 20.0 g. of 4-fluorobenzyl cyanide (1.0 eq., 0.15 moles), in 300 ml. dimethylsulfoxide (DMSO) (dried over molecular sieves), and 46.8 g. of 3-bromopyridine (2.0 eq., 0.30 moles) while stirring under N2. The reaction mixture was heated to 60° C. at which time 12.4 g of KOH (1.5 eq., 0.22 moles) as powdered pellets was added neat. The reaction exotherms to 80° C. and was monitored by GLC. After 30 min., an additional 2.4 g. of potassium hydroxide (KOH) was added (0.3 eq., 0.043 moles) and 1 hr. later GLC showed 6% unreacted nitrile. The reaction was quenched by the addition of 500 ml. of water and then extracted with 1 liter of ether. The organic phase was washed 3 times 250 ml. H2O, dried over MgSO4 and concentrated to give 50 g. of oil. The crude product was distilled under vacuum to give 15.7 g. of oil (49.4% yield) bp 160°-170° C. @1-2 mm. Hg.

reactant | 4-fluorobenzyl cyanide | 0.15 moles, 1.0 eq. | FC1=CC=C(CC#N)C=C1 | C8H6FN
reactant | 3-bromopyridine | 0.30 moles, 2.0 eq. | BrC=1C=NC=CC1 | C5H4BrN
reactant | KOH | 0.22 moles, 12.4 g, 1.5 eq. | [OH-].[K+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | alpha-4-fluorophenyl-3-pyridylacetonitrile | 49.4% yield | FC1=CC=C(C=C1)C(C#N)C=1C=NC=CC1 | C13H9FN2
